US08431575B2
A mixture of 1-(4-benzyloxy-phenyl)-pentan-2-one (2.98 mmol, 11.4 g), oxo-acetic acid ethyl ester solution in toluene (8 mL, 50% solution in toluene) and triethylamine (2 mL) was stirred at ambient temperature for 24 h. The volatiles were removed under reduced pressure, and the resultant residue was purified by flash silica gel chromatography using by eluting with 30% ethyl acetate in hexanes to provide 3-(4-benzyloxy-phenyl)-2-hydroxy-4-oxo-heptanoic acid ethyl ester.

reactant | 1-(4-benzyloxy-phenyl)-pentan-2-one | 2.98 mmol, 11.4 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(CCC)=O | C18H20O2
reactant | oxo-acetic acid ethyl ester | C(C)OC(C=O)=O | C4H6O3
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
product | 3-(4-benzyloxy-phenyl)-2-hydroxy-4-oxo-heptanoic acid ethyl ester | C(C)OC(C(C(C(CCC)=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)O)=O | C22H26O5
